US04136256
Preparation of p-[p-(n-hexadecylamino)benzamido]benzoic acid
To a stirred solution of 3.62 g. of ethyl p-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzamido]benzoate in 72 ml. of ethanol was added a solution of 1.44 g. of sodium hydroxide in 18 ml. of water and the resulting mixture was heated under reflux for 30 min. The mixture was allowed to cool, acidified with dilute hydrochloric acid, and filtered. The white solid was recrystallized from acetonitrile.

reactant | ethyl p-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzamido]benzoate | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1)(F)F | C34H47F3N2O4
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-[p-(n-hexadecylamino)benzamido]benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C30H44N2O3
